US09145433B2
A stirring solution of 6-bromoimidazo[1,2-a]pyridine-3-carboxylic acid (0.91 g, 3.7 mmol), EDCI (1.08 g, 5.6 mmol), HOBt (0.76 g, 5.6 mmol) and 3,4,5-trimethoxyaniline (0.76 g, 4.1 mmol) in acetonitrile/DMF (8/3 mL) under argon was added i-Pr2NEt (2.00 g, 2.6 ml), 15.4 mmol) drop wise for 5 min at room temperature. The resulting off-brown homogeneous reaction mixture was continued to stir at room temperature for 18 h. Subsequently, the heterogeneous reaction mixture was diluted with water and the solid was collected by filtration. The solid was suction dried on funnel to obtain 6-bromo-N-(3,4,5-trimethoxyphenyl)imidazo[1,2-a]pyridine-3-carboxamide (1.1 g) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 10.17 (s, 1H), 9.64 (s, 1H), 8.56 (d, J=1.1 Hz, 1H), 7.75 (d, J=9.7 Hz, 1H), 7.64 (dd, J=9.5, 1.9 Hz, 1H), 7.15 (s, 2H), 3.78 (s, 6H), 3.63 (s, 3H).

reactant | 6-bromoimidazo[1,2-a]pyridine-3-carboxylic acid | 3.7 mmol, 0.91 g | BrC=1C=CC=2N(C1)C(=CN2)C(=O)O | C8H5BrN2O2
reactant | EDCI | 5.6 mmol, 1.08 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 5.6 mmol, 0.76 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3,4,5-trimethoxyaniline | 4.1 mmol, 0.76 g | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | i-Pr2NEt | 2.6 ml, 2.00 g | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile DMF | 3 mL | C(C)#N.CN(C)C=O
solvent | water | O | H2O
product | 6-bromo-N-(3,4,5-trimethoxyphenyl)imidazo[1,2-a]pyridine-3-carboxamide | 1.1 g | BrC=1C=CC=2N(C1)C(=CN2)C(=O)NC2=CC(=C(C(=C2)OC)OC)OC | C17H16BrN3O4
